US07897762B2
To a stirring solution of amine (2 mmol, 1.00 eq) and pyridine (4 mmol, 2.00 eq) in CH2Cl2 (18 ml) at RT was added Troc-Cl (1.87 mmol, 1.05 eq). After 4 hours the reaction was washed with 3M HCl (1×), satd. NaHCO3 (1×), dried (Na2SO4), filtered and evaporated to afford the target 2,2,2-trichloroethyl carbamate. The material was used as is in the next reaction.

reactant | pyridine | 4 mmol, 2.00 eq | N1=CC=CC=C1 | C5H5N
reactant | Troc-Cl | 1.87 mmol, 1.05 eq | C(=O)(OCC(Cl)(Cl)Cl)Cl | C3H2Cl4O2
solvent | CH2Cl2 | 18 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloroethyl carbamate | C(N)(OCC(Cl)(Cl)Cl)=O | C3H4Cl3NO2
